US03987160
Sodium (7.35 g.) was dissolved in anhydrous methanol (130 ml.), treated with ethyl α-oximinocyanoacetate (11.4 g.) and 2-decyloxybenzamidine hydrochloride (25 g.) and heated to reflux, with stirring, for 4 hours. The mixture was allowed to stand at room temperature overnight and the solid which separated was filtered off, washed with water and dried at 75° C. to give the crude sodium salt of 4-amino-2-(2-decyloxyphenyl)-5-nitrosopyrimid-6-one, pure enough for use in the next stage of the preparation. An aliquot was treated with dilute acetic acid and the solid obtained recrystallised from dilute acetic acid and then from methanol to give pure 4-amino-2-(2-decyloxyphenyl)-5-nitrosopyrimid-6-one, m.p. 144°-146° C.

reactant | Sodium | 7.35 g | [Na] | Na
reactant | ethyl α-oximinocyanoacetate | 11.4 g | N(O)=C(C(=O)OCC)C#N | C5H6N2O3
reactant | 2-decyloxybenzamidine hydrochloride | 25 g | Cl.C(CCCCCCCCC)OC1=C(C(=N)N)C=CC=C1
solvent | methanol | 130 ml | CO | CH4O
product | 4-amino-2-(2-decyloxyphenyl)-5-nitrosopyrimid-6-one | NC=1N=C(NC(C1N=O)=O)C1=C(C=CC=C1)OCCCCCCCCCC | C20H28N4O3
